US04990504
2.18 g (8 mmol) of 2,4-dibromoglutaric anhydride, 0.83 ml (8 mmol) of benzyl alcohol, and 2 ml of chloroform are stirred for 1 hour at room temperature and for another hour under reflux. 20 ml of benzene and 0.1 ml of DMF are added, the solution is cooled in an ice bath, and 1.05 ml (12 mmol) of oxalyl chloride in 5 ml of benzene is added dropwise. Stirring is continued for 40 min. at 0° C. and 70 min. at room temperature, after which time gas evolution has virtually ceased. Volatiles are evaporated in vacuo, and the residue is taken up in 5 ml of CH2Cl2. This solution is added dropwise with ice cooling to a solution of 1.4 ml (15 mmol) of tert.-butanol, 1.4 ml (10 mmol) of triethylamine, and 19.5 mg (0.16 mmol) of 4-dimethylaminopyridine in 15 ml of CH2Cl2 . After stirring at 0° C. and room temperature for 20 min. each, the mixture is washed with aqueous KHSO4 solution, dried over MgSO4, evaporated, and filtered over silica gel to afford 2.65 g (76%) of benzyl t-butyl 2,4-dibromoglutarate. 1H NMR (CDCl3): δ7.37 (br. s., 5H), 5.22 (2 narrow AB systems, 2H), 1.48 (s, 9H); dl isomer: δ4.54 (t, 1H, J=7.5), 4.39 (t, 1H, J=7.5), 2.63 (t, 2H, J=7.5); meso isomer: δ4.44 (t, 1H, J=7.5), 4.26 (t, 1H, J=7.5), 2.83 (dt, 1H, J=7.5 (t), 15 (d)), 2.59 (dt, 1H, J=7.5 (t), 15 (d)); dl/meso=1:2. IR (neat): 2980, 1736, 1456, 1370, 1266, 1148, 843, 752, 696 cm- 1.

reactant | 2,4-dibromoglutaric anhydride | 8 mmol, 2.18 g | BrC1C(=O)OC(C(C1)Br)=O | C5H4Br2O3
reactant | benzyl alcohol | 8 mmol, 0.83 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | oxalyl chloride | 12 mmol, 1.05 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert.-butanol | 15 mmol, 1.4 ml | C(C)(C)(C)O | C4H10O
reactant | triethylamine | 10 mmol, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
catalyst | 4-dimethylaminopyridine | 0.16 mmol, 19.5 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | DMF | 0.1 ml | CN(C)C=O | C3H7NO
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl t-butyl 2,4-dibromoglutarate | 2.65 g, 76% | BrC(C(=O)OCC1=CC=CC=C1)CC(C(=O)OC(C)(C)C)Br | C16H20Br2O4
